US08008293B2
Synthesis of (1S,6R,9aR)-6-(4-chlorophenyl)-1-methyltetrahydro-[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione
Under ice-cooling, oxalyl chloride (833 μL) was added dropwise into a dichloromethane (15 mL) solution of (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3 yl]ethanol (833 mg) and pyridine (4 mL). Stirring was continued for 30 minutes at the same temperature and for 1 hour at room temperature. Water was added to the reaction solution, and the organic layer was partitioned. The resultant was dried over anhydrous magnesium sulfate, and the solvent was removed under a vacuum. The residue was purified by silica gel column chromatography (heptane/ethyl acetate→ethyl acetate), and the title compound (686 mg) was obtained. The physical property values are as follows.

reactant | oxalyl chloride | 833 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
reactant | (S)-1-[(3R,5R)-5-(4-chlorophenyl)morpholin-3 yl]ethanol | 833 mg | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@H](C)O | C12H16ClNO2
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | (1S,6R,9aR)-6-(4-chlorophenyl)-1-methyltetrahydro-[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione | 686 mg | ClC1=CC=C(C=C1)[C@H]1N2[C@H](COC1)[C@@H](OC(C2=O)=O)C | C14H14ClNO4
